US07777047B2
2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxamide
To a solution of 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylic acid (0.090 g) in N,N-dimethylformamide (6 ml) were added 1H-1,2,3-benzotriazol-1-ol (0.034 g) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.049 g), and the mixture was stirred at 50° C. for 45 min. 28% Aqueous ammonia (2 ml) was added to the reaction, and the mixture was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:methanol=100:0-90:10), and recrystallized from hexane-ethyl acetate to give the title compound (0.010 g, yield 11%) as colorless crystals.

reactant | 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxylic acid | 0.090 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)C(=O)O)S(=O)(=O)C=1SC=CC1 | C17H15N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.034 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.049 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 2 ml | N | H3N
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxamide | 0.010 g, yield 11% | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)C(=O)N)S(=O)(=O)C=1SC=CC1 | C17H16N4O3S3
